US08703763B2
a) 3-(3,4-Difluorophenyl)-5-methylpyridin-2-amine
3-Bromo-5-methylpyridin-2-amine (0.5 g, 2.7 mmol), 3,4-difluorophenylboronic acid (0.5 g, 3.2 mmol) and [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium(II)-dichloromethane complex (0.1 g, 0.1 mmol) were dissolved in a mixture of dioxane (10 mL) and 1M aqueous sodium carbonate solution (8 mL) under argon and the mixture was heated to 100° C. for 1 hour. The reaction was diluted with ethyl acetate, separated and the organic layer was washed with brine, dried with sodium sulfate, filtered and the solvent evaporated under reduced pressure. The residue was purified by column chromatography on silica gel using n-heptane/ethyl acetate (v/v 1:1) as eluent. The title compound was obtained as a light brown crystalline solid (0.6 g, quant.).

reactant | 3-Bromo-5-methylpyridin-2-amine | 2.7 mmol, 0.5 g | BrC=1C(=NC=C(C1)C)N | C6H7BrN2
reactant | 3,4-difluorophenylboronic acid | 3.2 mmol, 0.5 g | FC=1C=C(C=CC1F)B(O)O | C6H5BF2O2
solvent | dioxane | 10 mL | O1CCOCC1 | C4H8O2
solvent | sodium carbonate | 1M, 8 mL | C([O-])([O-])=O.[Na+].[Na+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-(3,4-Difluorophenyl)-5-methylpyridin-2-amine | FC=1C=C(C=CC1F)C=1C(=NC=C(C1)C)N | C12H10F2N2
